US08026260B2
A solution of 4-({[(pyridin-3-ylmethoxy)carbonyl]amino}methyl)benzoic acid (0.1 g, 0.35 mmol), tert-butyl (3-amino-1-phenyl-1H-pyrazol-4-yl)carbamate (0.096 g, 0.35 mmol), and N,N-diethylisopropylamine (0.049 g, 0.35 mmol) in methylene chloride (5 mL) was treated with BOP (0.23 g, 0.52 mmol) and heated to 60° C. for 1 hour. The reaction was loaded directly onto a silica column and purified by flash chromatography (0-3% methanol/methylene chloride) to give pyridin-3-ylmethyl {4-[({4-[(tert-butoxycarbonyl)amino]-1-phenyl-1H-pyrazol-3-yl}amino)carbonyl]benzyl}carbamate as a white solid. 1H NMR (CD3OD) δ 8.57 (s, 1H), 8.48 (d, J=4.99 Hz, 1H), 8.38 (s, 1H), 7.97 (d, J=7.92 Hz, 2H), 7.87 (d, J=7.92 Hz, 1H), 7.72 (d, J=7.92 Hz, 2H), 7.44 (m, 5H), 7.27 (t, J=7.33 Hz, 1H), 5.18 (s, 2H), 4.38 (s, 2H), 1.50 (s, 9H).

reactant | 4-({[(pyridin-3-ylmethoxy)carbonyl]amino}methyl)benzoic acid | 0.35 mmol, 0.1 g | N1=CC(=CC=C1)COC(=O)NCC1=CC=C(C(=O)O)C=C1 | C15H14N2O4
reactant | tert-butyl (3-amino-1-phenyl-1H-pyrazol-4-yl)carbamate | 0.35 mmol, 0.096 g | NC1=NN(C=C1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C14H18N4O2
reactant | N,N-diethylisopropylamine | 0.35 mmol, 0.049 g | C(C)N(CC)C(C)C | C7H17N
reactant | BOP | 0.52 mmol, 0.23 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | pyridin-3-ylmethyl {4-[({4-[(tert-butoxycarbonyl)amino]-1-phenyl-1H-pyrazol-3-yl}amino)carbonyl]benzyl}carbamate | C(C)(C)(C)OC(=O)NC=1C(=NN(C1)C1=CC=CC=C1)NC(=O)C1=CC=C(CNC(OCC=2C=NC=CC2)=O)C=C1 | C29H30N6O5
